US06248739B1
N-(4-Chlorobenzyl)-6-[ethyl(2-hydroxyethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a flask containing ethyl 6-[[2-(acetyloxy)ethyl](ethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate from Preparation No. 16 (0.22 g) is added p-chlorobenzylamine (1.0 mL). The reaction is tightly capped and heated to 190° C. overnight. The reaction is cooled to room temperature. The residue is adsorbed onto silica and chromatographed on silica eluting with 4% to 8% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.12 g of the title compound as a off-white solid.

reactant | ethyl 6-[[2-(acetyloxy)ethyl](ethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxylate | C(C)(=O)OCCN(C=1C=C2C(C(=CN(C2=CC1)C)C(=O)OCC)=O)CC | C19H24N2O5
reactant | p-chlorobenzylamine | 1.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-6-[ethyl(2-hydroxyethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.12 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)N(CCO)CC)C)C=C1 | C22H24ClN3O3
